US05053509
(RS)-1-Cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(2-furyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 39, but starting with 1-cyclopropyl-7,8-difluoro-3-ethoxycarbonyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.05 g) and (RS)-2-(2-furyl)piperazine (0.6 g). (RS)-1-Cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(2-furyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.3 g) is obtained in the form of a yellow solid, m.p. 182° C.

reactant | 1-cyclopropyl-7,8-difluoro-3-ethoxycarbonyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.05 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C18H14F2N2O3
reactant | (RS)-2-(2-furyl)piperazine | 0.6 g | O1C(=CC=C1)C1NCCNC1 | C8H12N2O
product | (RS)-1-Cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(2-furyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.3 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C=3OC=CC3)=O)C(=O)OCC | C26H25FN4O4
